US04372953
1-[3-(1-Methyl-1,2,3,4-tetrazol-5-yl)thiopropyl]-3-methylthiourea (8 g) is dissolved in methanol (80 ml). To the mixture is added methyl iodide (5.7 g) and the mixture is refluxed for 5 hours. To the reaction mixture is further added hydrazine hydrate (2.4 g) and the mixture is refluxed for 2 hours. After the solvent is distilled off, the resulting crystalline product is recrystallized from ethanol to give 1-amino-2-methyl-3-[3-(1-methyl-1,2,3,4-tetrazol-5-yl)thiopropyl]guanidine hydroiodide (8.5 g), colorless prisms, m.p. 105°-108° C.

reactant | 1-[3-(1-Methyl-1,2,3,4-tetrazol-5-yl)thiopropyl]-3-methylthiourea | 8 g | CN1N=NN=C1SCCCNC(=S)NC | C7H14N6S2
reactant | methyl iodide | 5.7 g | CI | CH3I
reactant | hydrazine hydrate | 2.4 g | O.NN
solvent | methanol | 80 ml | CO | CH4O
product | 1-amino-2-methyl-3-[3-(1-methyl-1,2,3,4-tetrazol-5-yl)thiopropyl]guanidine hydroiodide | 8.5 g | I.NNC(=NC)NCCCSC1=NN=NN1C | InChI=1S/C7H16N8S.HI/c1-9-6(11-8)10-4-3-5-16-7-12-13-14-15(7)2;/h3-5,8H2,1-2H3,(H2,9,10,11);1H
